US08623859B2
2-({4-[2-({[5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-yl]carbonyl}amino)ethyl]phenyl}amino)-1-methylpyridinium iodide
The title compound was prepared according to general procedure AD using 5-({[(4-Methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid (50 mg, 0.13 mmol), CDI (33 mg, 0.2 mmol), DIPEA (0.14 mL, 0.81 mmol) and 2-{[4-(2-aminoethyl)phenyl]amino}-1-methylpyridinium iodide hydrochloride (55 mg, 0.14 mmol) in DCE (1.0 mL).

reactant | 5-({[(4-Methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-carboxylic acid | 0.13 mmol, 50 mg | COC1=CC(=C(C(=C1)C)S(=O)(=O)N(C)CC1=CC(=CO1)C(=O)O)C | C16H19NO6S
reactant | CDI | 0.2 mmol, 33 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | DIPEA | 0.81 mmol, 0.14 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-{[4-(2-aminoethyl)phenyl]amino}-1-methylpyridinium iodide hydrochloride | 0.14 mmol, 55 mg | Cl.[I-].NCCC1=CC=C(C=C1)NC1=[N+](C=CC=C1)C
solvent | DCE | 1.0 mL | ClCCCl | C2H4Cl2
product | 2-({4-[2-({[5-({[(4-methoxy-2,6-dimethylphenyl)sulfonyl](methyl)amino}methyl)furan-3-yl]carbonyl}amino)ethyl]phenyl}amino)-1-methylpyridinium iodide | [I-].COC1=CC(=C(C(=C1)C)S(=O)(=O)N(C)CC1=CC(=CO1)C(=O)NCCC1=CC=C(C=C1)NC1=[N+](C=CC=C1)C)C | InChI=1S/C30H34N4O5S.HI/c1-21-16-26(38-5)17-22(2)29(21)40(36,37)34(4)19-27-18-24(20-39-27)30(35)31-14-13-23-9-11-25(12-10-23)32-28-8-6-7-15-33(28)3;/h6-12,15-18,20H,13-14,19H2,1-5H3,(H,31,35);1H
